US07655657B2
3-(4,4,5,5-Tetramethyl-[1, 3,2]dioxaborolan-2-yl)-9H-carbazole
3-Bromo-9H-carbazole (Aldrich, 0.97 g, 3.96 mmol) was coupled with bis(pinacolato)diboron (Aldrich, 1.13 g, 4.46 mmol) under the catalysis of dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane (Aldrich, 103 mg, 0.125 mmol) with KOAc (Aldrich, 1.21 g, 12.3 mmol) in DMF (anhydrous, Aldrich, 25 mL) at 80° C. overnight according to the procedure of Example 26A, The title compound was purified by chromatography (SiO2, gradient 5 to 50% EtOAc-hexanes) to give 0.80 g (2.73 mmol, 69% yield). 1H NMR (300 MHz, CDCl3) δ 1.40 (s, 12H), 7.26 (s, 1H), 7.40-7.47 (m, 3H), 7.88 (d, J=7.0 Hz, 1H), 8.11 (d, J=7.0 Hz, 2H), 8.58 (s, 1H) ppm. MS (DCI/NH3) m/z 294 (M+H)+.

reactant | 3-Bromo-9H-carbazole | 3.96 mmol, 0.97 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | bis(pinacolato)diboron | 4.46 mmol, 1.13 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 12.3 mmol, 1.21 g | CC(=O)[O-].[K+]
reactant | NH3 | N | H3N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-(4,4,5,5-Tetramethyl-[1, 3,2]dioxaborolan-2-yl)-9H-carbazole | 69% yield | CC1(OB(OC1(C)C)C=1C=CC=2NC3=CC=CC=C3C2C1)C | C18H20BNO2
